US06638929B2
Acetonitrile (1.3 mL, 24.9 mmol) is added to a −78° C. solution of 9.0 mL of 2.5 M n-butyllithium (22.5 mmol) in 40 mL of tetrahydrofuran. After stirring at −78° C. for 15 min, a solution of 2.86 g (9.02 mmol) of methyl 2-{[(E)-(dimethylamino)methylidene]amino}-6,7-dimethoxy-3-quinolinecarboxylate in 100 mL of tetrahydrofuran is added dropwise over 30 minutes. After stirring at −78° C. for 30 minutes, the reaction mixture is allowed to warm to room temperature and then stirred at room temperature for 1 hour. The reaction mixture is cooled to −78° C. and 3.0 mL of acetic acid is added. The mixture is then stirred at room temperature for 40 min. The solids are collected by filtration washing with water, methanol and ethyl acetate to provide 1.11 g (44%) of 7.8-dimethoxy-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carbonitrile as a light yellow solid, mp>300° C.

reactant | Acetonitrile | 24.9 mmol, 1.3 mL | C(C)#N | C2H3N
reactant | n-butyllithium | 22.5 mmol, 2.5 M, 9.0 mL | C(CCC)[Li]
reactant | methyl 2-{[(E)-(dimethylamino)methylidene]amino}-6,7-dimethoxy-3-quinolinecarboxylate | 9.02 mmol, 2.86 g | CN(C)\C=N\C1=NC2=CC(=C(C=C2C=C1C(=O)OC)OC)OC | C16H19N3O4
reactant | acetic acid | 3.0 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 7.8-dimethoxy-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carbonitrile | 1.11 g, 44% | COC1=CC=2C(=NC=3NC=C(C(C3C2)=O)C#N)C=C1OC | C15H11N3O3
